US08071586B2
F) (S)-2-Methyl-3-oxo-4-(3-piperidin-1-yl-propyl)-piperazine-1-carboxylic acid tert-butyl ester
Saturated aq. sodium hydrogencarbonate solution (1.25 ml) was added to a solution of (S)-4-(3-hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (1.00 g, 3.67 mmol), potassium bromide (44 mg, 0.37 mmol), and 2,2,6,6-tetramethylpiperidin-1-oxyl (6 mg, 0.04 mmol) in dichloromethane (50 ml). Sodium hypochlorite solution (10% in water, 2.2 ml, 3.7 mmol) was added portionwise at 0° C., and the course of the oxidation was monitored by thin layer chromatography. After all starting material had reacted, the reaction mixture was washed with sat. aq. sodium hydrogencarbonate solution, and the aqueous layer was extracted twice with dichloromethane. The organic phases were pooled, dried (MgSO4), filtered, and evaporated, thus affoding (S)-4-(3-oxo-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester (950 mg). This was dissolved in dichloromethane (20 ml) and added over 20 min to a suspension of piperidine (297 mg, 3.49 mmol) triethylamine (353 mg, 3.49 mmol), acetic acid (419 mg, 6.98 mmol) and sodium triacetoxyborohydride (90% purity; 908 mg, 3.85 mmol) in dichloromethane (20 ml). After 16 h the reaction mixture was washed with 2 M aq. sodium carbonate solution, the organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; dichloromethane/methanol/25% aq. ammonia solution 90:10:0.25) produced the title compound (1.07 g, 86%). Light yellow oil, MS (ISP)=340.2 (M+H)+.

reactant | sodium hydrogencarbonate | 1.25 ml | C(O)([O-])=O.[Na+]
reactant | (S)-4-(3-hydroxy-propyl)-2-methyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 3.67 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)CCCO)=O)C | C13H24N2O4
reactant | potassium bromide | 0.37 mmol, 44 mg | [Br-].[K+]
reactant | Sodium hypochlorite | 3.7 mmol, 2.2 ml | Cl[O-].[Na+]
reactant | piperidine | 3.49 mmol, 297 mg | N1CCCCC1 | C5H11N
reactant | acetic acid | 6.98 mmol, 419 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.85 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 2,2,6,6-tetramethylpiperidin-1-oxyl | 0.04 mmol, 6 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
product | (S)-2-Methyl-3-oxo-4-(3-piperidin-1-yl-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.07 g, 86% | C(C)(C)(C)OC(=O)N1[C@H](C(N(CC1)CCCN1CCCCC1)=O)C | C18H33N3O3
